US08957070B2
7-[(2-Thienylsulfonyl)amino]-1H-indole-2-carbothioamide
A mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (0.66 g), Lawesson's reagent (0.88 g) and tetrahydrofuran (20 mL) was stirred at 40° C. overnight. The reaction mixture was concentrated, the obtained residue was subjected to silica gel column chromatography, and the title compound (0.61 g, yield 86%) was obtained as yellow crystals from a fraction eluted with tetrahydrofuran-hexane (3:2, volume ratio). melting point 249-250° C. (decomposition).

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.66 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)N | C13H11N3O3S2
reactant | Lawesson's reagent | 0.88 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 7-[(2-Thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.61 g, yield 86% | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(N)=S | C13H11N3O2S3
